US08013010B2
3-(2-Methoxy-5-pyrimidinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VII, and 2-methoxy-5-pyrimidineboronic acid, the expected product is obtained and is reacted further without additional purification in order to obtain the nonacetylated xyloside.

reactant | 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)Br)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19BrO7S
reactant | 2-methoxy-5-pyrimidineboronic acid | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
product | 3-(2-Methoxy-5-pyrimidinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C=2C=NC(=NC2)OC)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H24N2O8S
